Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Cephalosporins / chloramphenicol / Penicillins
 
Attending: ___.
 
Chief Complaint:
Right upper lobe endobronchial carcinoid
 
Major Surgical or Invasive Procedure:
VATS right upper lobectomy, mediastinal lymph node dissection, 
and bronchoscopy with lavage

 
History of Present Illness:
Ms. ___ is a ___ with a remote smoking history and 
prior positive PPD who had a lung mass incidentally detected on 
a CXR in ___ during treatment for pneumonia. At 
follow-up imaging, the RUL infiltrate had not fully resolved and 
a CT was performed in ___ demonstrating an obstructed 
right upper lobe anterior segment bronchus. She underwent 
bronchoscopy to further evaluate the endobronchial lesion that 
was biopsy proven carcinoid tumor. 

 
Past Medical History:
Positive PPD
Breast fibroadenoma

 
Social History:
___
Family History:
Mother: CAD- ___
Father: ___- colon cancer (deceased ___
Siblings
Offspring
Other: mGF colon cancer, mAunt uterine cancer
 
Physical Exam:
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Trachea midline [ ] Abnormal findings:

RESPIRATORY    
[ ] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[x] Abnormal findings: faint crackles at bases R>L. Incision 
c/d/i

CARDIOVASCULAR 
[] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:
 
Pertinent Results:
BLOOD
======

___ 05:50AM BLOOD WBC-14.8*# RBC-3.95 Hgb-11.1* Hct-33.8* 
MCV-86 MCH-28.1 MCHC-32.8 RDW-14.4 RDWSD-44.6 Plt ___
___ 05:50AM BLOOD Glucose-101* UreaN-17 Creat-0.7 Na-133 
K-4.1 Cl-100 HCO3-21* AnGap-16
___ 05:50AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.9

MICROBIOLOGY 
============

___ 10:07 am SWAB      ANTERIOR SEGMENT BRONCHIAL SWAB. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary): 

IMAGING
=======

POD 0 CXR (___)

Low lung volumes result in accentuation of heart size and 
crowding of the 
bronchovascular structures.  Right perihilar opacification is 
new.  Mild left basilar atelectasis is new.  No pleural 
effusion.  No pneumothorax.  Heart size is normal.  A 
right-sided chest tube projects over the right hemithorax.  
Surgical clips project over the mediastinum. 

 

PATHOLOGY
=========

Pathology of surgical specimen and dissected lymph nodes 
(___) pending. Results to be discussed at ___ clinic 
visit.  

 
Brief Hospital Course:
Ms. ___ presented as a same day admission for surgery. She 
was taken to the operating room on ___ and underwent a VATS 
RUL lobectomy and mediastinal lymph node dissection for 
biopsy-proven carcinoid tumor. Margins of specimen were clear. 
Her recovery was uncomplicated. The patient was initially 
treated with IV pain medications and fluids and transitioned to 
oral meds and a regular diet by POD #1. Her chest tube was 
removed on POD #1 and CXR confirmed no pneumothorax or 
significant effusion. At discharge, pain was well controlled 
with oral medications, patient was ambulating unassisted, 
tolerating a regular diet, and voiding spontaneously. 

Ms. ___  will follow up with Dr. ___ on ___. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 400 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
4.  Milk of Magnesia 30 mL PO HS:PRN constipation  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4hrs Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right upper lobe endobronchial carcinoid

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted on ___ for a scheduled operation to 
remove the right upper lobe of your lung where a growth was 
detected on imaging. There were no complications and the margins 
were clear, meaning there was no detectable mass left behind. 

You recovered nicely and resumed a regular diet on the first day 
after surgery. You will follow up with Dr. ___ on 
___ at 9:30 AM on the ___ floor of the ___ ___ 
___ below). In the meantime, please call his office 
___ should you experience:   

-Fevers > 101 or chills 
-Difficult or painful swallowing 
-Nausea, vomiting 
-Increased shortness of breath 

For pain, we recommend the following:
-Acetaminophen 650 mg every 6 hours along with your narcotic 
-Take stool softeners (over the counter Colace or Miralax) while 
taking narcotics 
-No driving while taking narcotics 

Activity 
-Shower daily. Wash incision with mild soap and water, rinse, 
pat dry 
-Monitor incisions for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/malodorous drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. Please call the office if you develop any 
of these symptoms or a fever.
-No tub bathing, swimming or hot tubs until incision healed 
-No lotions or creams to incision 
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily 
-No heavy lifting greater than 6 lbs until your follow-up in 
clinic 

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. 

Sincerely,
Your ___ Team 
 
Followup Instructions:
___